US05856529
Step 1: Ethyl-3-(2-methylpropenyloxy)benzoate
A mixture of 2-methyl-3-chloropropene (64.2 g, 710 mmol), ethyl 3-hydroxybenzoate (48.21 g, 590 mmol), and potassium carbonate (122.3 g, 890 mmol) in THF (600 ml) and DMF (600 ml) was heated to reflux for 6 hr. The mixure was poured into water (3 L) and extracted with ethyl acetate three times. The ethyl acetate extracts were combined and washed with water and dried with brine. The ethyl acetate extracts were concentrated in vacuo to a yellow oil that was vacuum distilled to a clear oil (112.9 g, 87%).

reactant | 2-methyl-3-chloropropene | 710 mmol, 64.2 g | CC(=C)CCl | C4H7Cl
reactant | ethyl 3-hydroxybenzoate | 590 mmol, 48.21 g | OC=1C=C(C(=O)OCC)C=CC1 | C9H10O3
reactant | potassium carbonate | 890 mmol, 122.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 3 L | O | H2O
solvent | THF | 600 ml | C1CCOC1 | C4H8O
solvent | DMF | 600 ml | CN(C)C=O | C3H7NO
product | Ethyl-3-(2-methylpropenyloxy)benzoate | C(C)OC(C1=CC(=CC=C1)OC=C(C)C)=O | C13H16O3
